US06723722B1
1-(2-Methyl-4-pyridyl)-4-piperidone
A mixture of piperidone hydrochloride hydrate (68.98 g), 4-chloro-2-picolin (47.7 g) and sodium acetate (36.8 g) in acetic acid (500 ml) was refluxed for 15 hours and then the reaction mixture was concentrated, and the resultant residue was dissolved in water, combined with potassium hydroxide to make alkaline, and then extracted with dichloromethane, dried and concentrated. The residue obtained was purified by a column chromatography on a silica gel (dichloromethane: 10% aqueous ammonia-containing methanol=30:1) to obtain the title compound (59.1 g) as a pale yellow oil.

reactant | piperidone hydrochloride hydrate | 68.98 g | O.Cl.N1C(CCCC1)=O
reactant | 4-chloro-2-picolin | 47.7 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | sodium acetate | 36.8 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Methyl-4-pyridyl)-4-piperidone | 59.1 g | CC1=NC=CC(=C1)N1CCC(CC1)=O | C11H14N2O
